US05780642
A solution of 3-(imidazol-1-yl)propionaldehyde diethyl acetal, (2.5 g, prepared as described in DE 2,842,759, by reacting imidazole with 3-chloropropionaldehyde diethyl acetal in the presence of sodium hydride) in 5M hydrochloric acid (10 ml) was left to stand at ambient temperature overnight. The solution was basified with solid sodium bicarbonate, sodium chloride was added and the mixture extracted with chloroform. The combined chloroform extracts were concentrated under reduced pressure at ambient temperature to give a solution of 3-(imidazol-1-yl)propionaldehyde in a small volume of chloroform. This aldehyde was dissolved in acetonitrile (20 ml). 1-Methyl-1-[4-(3,4-xylylsulphonylmethyl)phenyl]-ethylamine(2.0 g) and molecular sieves type 4A, (1.0 g) were added to this solution and the mixture was stirred at ambient temperature overnight. The mixture was filtered. The filtrate was evaporated under reduced pressure to give a residue which was dissolved in absolute ethanol (20 ml). Sodium borohydride (1.4 g) was added to the solution and the mixture was boiled under reflux for 3 hours. The mixture was evaporated to dryness. Dilute sodium hydroxide solution was added to the residue and the mixture extracted with ethyl acetate to give an oil which was purified by flash chromatography on silica, using ethyl acetate/triethylamine (98:2) as the mobile phase to elute unreacted starting material and then ethyl acetate/methanol (9:1) to elute the product as an oil which was dissolved in ether and acidified with ethereal hydrogen chloride. The precipitate was collected by filtration and recrystallised from propan-2-ol containing a small amount of water to give 3-(imidazol-1-yl)-N-{1-methyl-1-[4-(3,4-xylylsulphonylmethyl)phenyl]ethyl}propylamine dihydrochloride hydrate, m.p. 150° C.

reactant | 3-(imidazol-1-yl)propionaldehyde diethyl acetal | C(C)OC(CCN1C=NC=C1)OCC | C10H18N2O2
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 3-chloropropionaldehyde diethyl acetal | C(C)OC(CCCl)OCC | C7H15ClO2
reactant | sodium hydride | [H-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | hydrochloric acid | 5M, 10 ml | Cl | ClH
product | 3-(imidazol-1-yl)propionaldehyde | N1(C=NC=C1)CCC=O | C6H8N2O
